US08242175B2
(E)-3-(4-{(E)-3-[4-(4-Acetyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide
The product was obtained starting from a mixture of methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester and (E)-3-{4-[(E)-3-(4-chloromethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (both obtained as described in Preparation 5) and 1-piperazin-1-yl-ethanone, following the experimental procedure described for Example 28. The title compound was obtained as its hydrochloride salt.

reactant | methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester | O1C(CCCC1)ONC(=O)/C=C/C1=CC=C(C=C1)/C=C/C(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C25H27NO7S
reactant | (E)-3-{4-[(E)-3-(4-chloromethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | ClCC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1)=O | C24H24ClNO4
reactant | 1-piperazin-1-yl-ethanone | N1(CCNCC1)C(C)=O | C6H12N2O
product | (E)-3-(4-{(E)-3-[4-(4-Acetyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O | C25H27N3O4
